US05461153
3. Preparation of 4-Chloro-2-ethoxy-6-hydrazinopyrimidine
A mixture of 50.0 g of 95 percent purity (0.246 mol) 4,6-dichloro-2-ethoxypyrimidine, 26.9 g (0.266 mol) of triethylamine, 200 mL of ethanol, and 200 g of water was prepared and cooled to 5° C. To this was added 13.4 g (0.266 mol) of hydrazine hydrate over a 15-min period with stirring and cooling at about 5° C. The mixture was stirred and allowed to warm to ambient temperature overnight. It became very thick, but approximately 10 percent of the starting material remained. Another 1.3 g (0.026 mol) of hydrazine hydrate was added and stirring was continued for another 4 hours. The solids that formed were recovered by vacuum filtration and were washed twice with 100 mL portions of water and then with 100 mL of acetonitrile. The title compound, which was obtained as a white powder melting at 170°-173° C., amounted to 43.9 g (88 percent of theory).

reactant | 4,6-dichloro-2-ethoxypyrimidine | 0.246 mol | ClC1=NC(=NC(=C1)Cl)OCC | C6H6Cl2N2O
reactant | triethylamine | 0.266 mol, 26.9 g | C(C)N(CC)CC | C6H15N
reactant | ethanol | 200 mL | C(C)O | C2H6O
reactant | hydrazine hydrate | 0.266 mol, 13.4 g | O.NN
reactant | hydrazine hydrate | 0.026 mol, 1.3 g | O.NN
solvent | water | 200 g | O | H2O
product | 4-Chloro-2-ethoxy-6-hydrazinopyrimidine | ClC1=NC(=NC(=C1)NN)OCC | C6H9ClN4O
